US06310076B1
3-(3,4-Methylenedioxyphenyl)methylenepentane-2,4-dione
A mixture of pentane-2,4-dione (20.0 g, 200 mmol), 3,4-methylenedioxybenzaldehyde (32.2 g, 200 mmol), piperidine (1.98 mL, 20.0 mmol), and HOAc (1.20 mL, 20.0 mmol) in 200 mL of isopropanol were stirred at room temperature for 3 days (no precipitate). The solvent was remove in vacuo, and the crude product was heated to 50-70° C. under reduced pressure for 0.5 hours (no solids). The crude product was chromatographed on 900 g of silica packed with 10% EtOAc-hexane. The column was eluted with increasing amounts of EtOAc (10% to 30%, 2.5%/2 L change) to give 19.1 g (41%) of the desired product as a yellow solid: mp 79-80° C. The product was used in the next step after spectral characterization.

reactant | pentane-2,4-dione | 200 mmol, 20.0 g | CC(CC(C)=O)=O | C5H8O2
reactant | 3,4-methylenedioxybenzaldehyde | 200 mmol, 32.2 g | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | piperidine | 20.0 mmol, 1.98 mL | N1CCCCC1 | C5H11N
reactant | HOAc | 20.0 mmol, 1.20 mL | CC(=O)O | C2H4O2
solvent | isopropanol | 200 mL | C(C)(C)O | C3H8O
product | 3-(3,4-Methylenedioxyphenyl)methylenepentane-2,4-dione | 19.1 g, 41% | C1OC=2C=C(C=CC2O1)C=C(C(C)=O)C(C)=O | C13H12O4
